US07217723B2
From (3-{[2-(4-fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-formylthiophene-2-yl)carbamic acid t-butyl ester (160 mg) and 0.35 mL of a solution (0.35 mL) of 2.0M benzyl magnesium chloride-tetrahydrofuran, [3-{[2-(4-fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-(1-hydroxy-2-phenylethyl)thiophene-2-yl]carbamic acid t-butyl ester was obtained, in the same way as Preparation Example 87. Thereafter, oxidation reaction was carried out, which was the same as Preparation Example 108, and the title compound (47 mg) was obtained as an orange oily substance.

reactant | benzyl magnesium chloride tetrahydrofuran | 2.0M | C(C1=CC=CC=C1)[Mg]Cl.O1CCCC1
reactant | [3-{[2-(4-fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-(1-hydroxy-2-phenylethyl)thiophene-2-yl]carbamic acid t-butyl ester | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(OCOC)C1=CC=C(C=C1)F)(=O)=O)C(CC1=CC=CC=C1)O)=O | C28H35FN2O7S2
product | (3-{[2-(4-fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-formylthiophene-2-yl)carbamic acid t-butyl ester | 160 mg | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(OCOC)C1=CC=C(C=C1)F)(=O)=O)C=O)=O | C21H27FN2O7S2
